US05849757
The thus obtained 4-carboxymethyl-3,5,6-trifluorophthalic acid is heated in dimethyl sulfoxide in the presence of a base to give 3-methyl-2,4,5-trifluorobenzoic acid.

reactant | 4-carboxymethyl-3,5,6-trifluorophthalic acid | C(=O)(O)CC=1C(=C(C(C(=O)O)=C(C1F)F)C(=O)O)F | C10H5F3O6
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 3-methyl-2,4,5-trifluorobenzoic acid | CC=1C(=C(C(=O)O)C=C(C1F)F)F | C8H5F3O2
